US05019578
(R)-6-Amino-α-[[(1-methylcyclopropyl)amino]methyl]-3-pyridinemethanol dihydrochloride
To a solution of 319 mg (1.37 mmol) of (R)-α-[[(1-methylcyclopropyl)amino]methyl]tetrazolo [1,5-a]pyridine-6-methanol in 25 ml of methanol, 0.12 ml of 12 N HCl and 622 mg (2.75 mmol) of SnCl2 ·2H2O were added. This mixture was heated at reflux for 8 hours and then concentrated to dryness. The residue was partitioned between 80:20 methylene chloride:methanol and 5 ml of 2.5 N NaOH solution. The layers were separated and the aqueous layer repeatedly extracted with 80:20 methylene chloride:methanol. The combined extracts were dried with anhydrous magnesium sulfate and concentrated under reduced pressure, wt. 355 mg. Purification was accomplished by preparative Tlc on silica gel (90:10:1 methylene chloride:methanol:conc. ammonium hydroxide) to give 116 mg of product which was converted into its hydrochloride salt in ethanolic HCl. The salt was precipitated with ether, 105 mg; [α]25D=-28.5 (MeOH, c=1.5); Analysis: Calcd. for C11H17N3O·2HCl:

reactant | (R)-α-[[(1-methylcyclopropyl)amino]methyl]tetrazolo [1,5-a]pyridine-6-methanol | 1.37 mmol, 319 mg | CC1(CC1)NC[C@H](O)C=1C=CC=2N(C1)N=NN2 | C11H15N5O
reactant | SnCl2 | 2.75 mmol, 622 mg | Cl[Sn]Cl
solvent | methanol | 25 ml | CO | CH4O
solvent | HCl | 12 N, 0.12 ml | Cl | ClH
product | (R)-6-Amino-α-[[(1-methylcyclopropyl)amino]methyl]-3-pyridinemethanol dihydrochloride | 116 mg | Cl.Cl.NC1=CC=C(C=N1)[C@@H](O)CNC1(CC1)C | InChI=1S/C11H17N3O.2ClH/c1-11(4-5-11)14-7-9(15)8-2-3-10(12)13-6-8;;/h2-3,6,9,14-15H,4-5,7H2,1H3,(H2,12,13);2*1H/t9-;;/m0../s1
